US06423713B1
A mixture of methyl 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyridinecarboxylate prepared as set forth in Example A-224 (0.45 g, 1.5 mmol) and 20 mL of methylamine (40% aqueous solution) was heated at 120° C. in a sealed tube for 16 hours. After cooling, water was added and the aqueous phase was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated to afford 0.4 g of 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-N-methyl-2-pyridinecarboxamide as a white solid, mp: 88-89° C. Anal. Calc'd for C16H13FN4O+0.4 H2O: C, 63.32; H, 4.58; N, 18.46. Found C, 63.10; H, 4.62; N, 18.35.

reactant | methyl 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyridinecarboxylate | FC1=CC=C(C=C1)C1=NNC=C1C1=CC(=NC=C1)C(=O)OC | C16H12FN3O2
reactant | methylamine | 20 mL | CN | CH5N
solvent | water | O | H2O
product | 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-N-methyl-2-pyridinecarboxamide | 0.4 g | FC1=CC=C(C=C1)C1=NNC=C1C1=CC(=NC=C1)C(=O)NC | C16H13FN4O
